US07323455B2
4-Methyl-5-(5-methyl-2-oxo-5-phenyl-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)thiophene-2-carbonitrile
Prepared from 7-bromo-5-methyl-5-phenyl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one and 5-bromo-4-methyl-thiophene-2-carbonitrile using the coupling procedures of examples 82 and 1. 1H-NMR (DMSO-d6) δ 10.15 (s, 1H), 7.85 (s, 1H), 7.49 (m, 1H), 7.38-7.21 (m, 7H), 4.29 (d, J=15.19 Hz, 1H), 4.04 (d, J=15.05 Hz, 1H), 2.22, (s, 3H), 1.93 (s, 3H); MS (ES) m/z 375 ([M+H]+, 100%).

reactant | 7-bromo-5-methyl-5-phenyl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one | BrC=1C=CC2=C(C(OCC(N2)=O)(C2=CC=CC=C2)C)C1 | C16H14BrNO2
reactant | 5-bromo-4-methyl-thiophene-2-carbonitrile | BrC1=C(C=C(S1)C#N)C | C6H4BrNS
product | 4-Methyl-5-(5-methyl-2-oxo-5-phenyl-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)thiophene-2-carbonitrile | CC=1C=C(SC1C=1C=CC2=C(C(OCC(N2)=O)(C2=CC=CC=C2)C)C1)C#N | C22H18N2O2S
